US07247734B2
This compound was synthesised in the same manner as described above. 4-[4-(6-Chloro-7-hydroxy-4-oxo-4H-chromen-3-yl)-2-(3-cyano-propoxy)-phenoxy]-butyronitrile (0.12 g, 0.27 mmol), Hydrazine hydrate (5 ml). The precipitate formed on quenching was filtered to give 4-[4-[3-(5-Chloro-2,4-dihydroxy-phenyl)-1H-pyrazol-4-yl]-2-(3-cyano-propoxy)-phenoxy]-butyronitrile as a white solid (0.11 g, 90.1%); Rf 0.6 ethyl acetate/hexane (70/30)].

reactant | 4-[4-(6-Chloro-7-hydroxy-4-oxo-4H-chromen-3-yl)-2-(3-cyano-propoxy)-phenoxy]-butyronitrile | 0.27 mmol, 0.12 g | ClC=1C=C2C(C(=COC2=CC1O)C1=CC(=C(OCCCC#N)C=C1)OCCCC#N)=O | C23H19ClN2O5
reactant | Hydrazine hydrate | 5 ml | O.NN
product | 4-[4-[3-(5-Chloro-2,4-dihydroxy-phenyl)-1H-pyrazol-4-yl]-2-(3-cyano-propoxy)-phenoxy]-butyronitrile | 0.11 g, 90.1% | ClC=1C(=CC(=C(C1)C1=NNC=C1C1=CC(=C(OCCCC#N)C=C1)OCCCC#N)O)O | C23H21ClN4O4
